Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Lisinopril 
/ mango / papaya / morphine
 
Attending: ___
 
Chief Complaint:
abdominal pain 
 
Major Surgical or Invasive Procedure:
Therapeutic paracentesis x2 ___ removed; ___ 
removed)

 
History of Present Illness:
___ woman with decompensated HCV/alcoholic cirrhosis 
(complicated by ascites, esophageal & rectal varices, hepatic 
encephalopathy), recent admission for subacute rib fractures and 
adrenal insufficiency, who presented with worsening abdominal 
distension and pain.
  
She reports that she typically gets paracentesis weekly, last 
___. She has had progressive swelling of her abdomen and 
worsening of her chronic abdominal pain, which can be sharp or 
cramping and all over her abdomen. She endorses subjective 
fevers, chills, nausea, and diarrhea as well.  

In addition to her abdominal pain, she has has chest pain under 
her left breast x weeks that is non-exertional and 
non-radiating.  

She has no dyspnea.  

Of note, she was recently admitted for acute on chronic 
abdominal pain and decompensated cirrhosis. Her course was 
complicated by new diagnosis of adrenal insufficiency and 
odynophagia. She was recommended to go to rehab but declined.  

In the ED, she was febrile to 101.8 but initially 
hemodynamically stable. She later developed worsening mental 
status and hypotension despite IV albumin 100g concerning for 
sepsis. Workup was notable for:  
 WBC 11.3, 9% bands  
 Hgb 9.9 -> 8.6  
 Plt 75 -> 50  
 K 5.8  
 1 of 2 blood cultures with GPCs in pairs and chains  
 Ascitic fluid with 4038 PMNs, 2130 RBCs  
 She was initially given vanc/ceftriaxone, then broadened to 
vanc/cefepime/metronidazole. She received numerous additional 
meds, notable for:  
 IV albumin 100g  
 lactulose  
 rifaximin  
 IV dilaudid (5mg total)  
 IV morphine (4mg total)  
 hydroxyzine  

 
Past Medical History:
HCV - genotype 1a decompensated with h/o ascites; liver biopsy 
in ___ showed stage ___ fibrosis 
EtOH cirrhosis (Child's Class B) c/b ascites, esophageal 
varices, HE
Hypertension
Hyperlipidemia
COPD
Alcohol use disorder
Depression
Cocaine use disorder
Tobacco use disorder
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair  
 
Social History:
___
Family History:
Mother: DM, CAD (COD), and was in a wheelchair for neuropathy.
Father: ___, rectal CA (COD)
Sister: mental illness 
___: 1 brother neonatal death, 1 brother death at 3 months, 

1 brother sudden death in ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: BP: 115/61 HR: 70 RR: 12 O2 sat: 97% on RA; RASS: -1   
GENERAL: NAD  
HEENT: Patient appears uncomfortable, shaking
NECK: supple, no LAD, no JVD  
HEART: RRR, no appreciable murmurs
LUNGS: bibasilar crackles, no accessory muscle use. clear in
anterior fields. 
ABDOMEN: distended abdomen with protuberant umbilical hernia, no
skins changes surrounding umbilical hernia however painful to
touch. Diffusely tender abdomen. Notably a femoral hernia that
was painful with reduction.
EXTREMITIES: no cyanosis, clubbing, or edema, warm extremities 
on
exam. 
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose.  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM: 
========================
N/A

 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:01PM BLOOD WBC-10.1* RBC-3.65* Hgb-9.9* Hct-31.4* 
MCV-86 MCH-27.1 MCHC-31.5* RDW-17.9* RDWSD-56.5* Plt Ct-75*
___ 10:01PM BLOOD Neuts-92.9* Lymphs-1.8* Monos-4.5* 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-9.40* AbsLymp-0.18* 
AbsMono-0.46 AbsEos-0.01* AbsBaso-0.01
___ 11:13PM BLOOD ___ PTT-29.8 ___
___ 10:01PM BLOOD Glucose-115* UreaN-20 Creat-0.8 Na-139 
K-4.1 Cl-106 HCO3-21* AnGap-12
___ 10:01PM BLOOD ALT-22 AST-33 AlkPhos-161* TotBili-1.5
___ 10:01PM BLOOD Albumin-3.2* Calcium-8.4 Phos-2.2* Mg-1.9
___ 10:07PM BLOOD Lactate-2.3*

MICROBIOLOGY:
=============
___ 2:00 pm STOOL     CONSISTENCY: FORMED      Source: 
Stool. 
                            **FINAL REPORT ___
   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage. 
__________________________________________________________
___ 2:00 pm URINE
   URINE CULTURE (Pending): 
__________________________________________________________
___ 10:43 am BLOOD CULTURE
   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 2:20 am BLOOD CULTURE
   Blood Culture, Routine (Preliminary): 
      BETA STREPTOCOCCUS GROUP B. 
         Identification and susceptibility testing performed on 
culture # 
         ___ ___. 
   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 
   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 
__________________________________________________________
___ 2:20 am URINE
   URINE CULTURE (Preliminary): 
      ENTEROCOCCUS SP..    >100,000 CFU/mL. 
__________________________________________________________
___ 11:35 pm PERITONEAL FLUID      PERITONEAL FLUID. 
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary): 

   ANAEROBIC CULTURE (Preliminary): 
__________________________________________________________
___ 10:01 pm BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      BETA STREPTOCOCCUS GROUP B.    PRELIMINARY SENSITIVITY. 
         These preliminary susceptibility results are offered to 
help guide
         treatment; interpret with caution as final 
susceptibilities may
         change. Check for final susceptibility results in 24 
hours. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             BETA STREPTOCOCCUS GROUP B
                             |   
CLINDAMYCIN-----------       S
ERYTHROMYCIN----------       S
VANCOMYCIN------------       S

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 
      Reported to and read back by ___ (___) @11:35 
(___). 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

IMAGING:
========
CHEST (PA & LAT) (___):
Ill-defined density partially obscuring the right heart border 
may represent atelectasis, however, a focal consolidation at the 
location cannot be excluded. 

DUPLEX DOPP ABD/PEL (___)
1. Cirrhotic liver with splenomegaly and moderate ascites. 
2. No evidence of portal vein thrombosis. 

LIVER OR GALLBLADDER US (___)
1. Cirrhotic liver with splenomegaly and moderate ascites. 
2. No evidence of portal vein thrombosis. 

CT ABD & PELVIS W/O CON (___)
1. Cirrhotic liver with signs of portal hypertension. 
2. Severe ascites, which is increased compared to prior study. 
3. Prominent loops of small bowel measuring up to 3.1 cm most 
likely represent ileus.  No signs of bowel obstruction.  No 
pneumoperitoneum. 
4. Small right lower lobe consolidation, either representing 
atelectasis or infection. 

CHEST (PORTABLE AP) (___):
Lungs are low volume with slight worsening of interstitial 
edema. 
Cardiomediastinal silhouette is stable.  There is bibasilar 
atelectasis.  
Trace left pleural effusions unchanged.  No pneumothorax is seen 


TTE (___):
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/ global biventricular systolic 
function. Heavily calcified mitral annulus with mild functional 
stenosis. At
least mild mitral regurgitation. Elevated LVEDP and mild 
pulmonary hypertension. Compared with the prior TTE ___, 
the findings are similar.

PARACENTESIS LABS: 
==================
___ 10:37AM ASCITES TNC-___* RBC-___* Polys-19* Lymphs-21* 
Monos-7* Eos-1* Mesothe-4* Macroph-48* Other-0
___ 11:39AM ASCITES TNC-___* RBC-___* Polys-85* Lymphs-5* 
Monos-5* ___ Mesothe-1* Macroph-4*
___ 11:35PM ASCITES TNC-___* ___-___* Polys-88* Lymphs-4* 
Monos-8*
___ 10:37AM ASCITES TotPro-1.4 Albumin-0.6
___ 11:39AM ASCITES TotPro-1.6 Albumin-0.8
___ 11:35PM ASCITES TotPro-0.7 Glucose-117

DISCHARGE LABS: 
===============
N/A
 
Brief Hospital Course:
ASSESSMENT AND PLAN:  
====================
Ms. ___ is a ___ y/o woman with decompensated HCV/EtOH 
cirrhosis, admitted for spontaneous vs. secondary peritonitis, 
GPC bacteremia, and management for possible adrenal crisis. On 
___ patient noted to have a large bloody stool, management of 
which was not within her GOC. The patient was transitioned to 
CMO and passed away surrounded by her friends and family. 

ACUTE ISSUES:
=============
#GI bleed
Patient noted to have had a large bloody bowel movement on 
___. In discussion with the patient and her HCP, 
investigation/treatment of this would require intubation which 
was not w/in the patient's GOC. With this in mind, in addition 
to her multiple medical issues discussed below and her numerous 
admissions in the past year, the patient and HCP decided that 
continuing aggressive treatment was only prolonging of the 
inevitable and the patient was transitioned to CMO. 

#Acute Hypoxemic Respiratory Failure
On ___, patient was found struggling to breath. O2 sat was 82% 
on 2L and tachypneic in ___. SBP started to rise peaking up to 
220s and HR was in the 140s. She was given lasix 80mg, and 
placed on non-rebreather mask following which O2 sat increased 
to mid-90s. However, she continued to be tachypneic in ___ with 
SBP>200. Stat CXR and clinical assessment suggested flash 
pulmonary edema vs. ARDS ___ to infection which was c/b 
decompensated cirrhosis. She is DNI/DNR though respiratory code 
was called and she was placed on BiPAP. She was transferred to 
ICU for BiPAP management, nitro drip for HTN management, and 
volume control. She was transitioned to CMO when transferred 
back to the floor when her family, the patient, and HCP decided 
that her GOC did not include continued respiratory support. It 
was felt that she would not recover from her sepsis, GI 
bleeding, and pulmonary edema.

# HYPOTENSION, likely due:  
# SEPSIS:  
# ADRENAL INSUFFICIENCY:  
Hypotension likely multifactorial including sepsis given fever, 
bandemia, GPC bacteremia, and peritonitis. CXR on admission with 
infiltrate concerning for possible HAP. Diagnostic para was 
consistent with SBP. She was started with 
vanc/cefepime/metronidazole ___ transition). Additionally, 
patient has known adrenal insufficiency and she was started on 
stress dose steroids hydrocortisone 50mg Q8hrs which was 
discontinued on transition to CMO.

# GPC BLOODSTREAM INFECTION:  
Patient with GPCs in cluster and pairs. Regarding sources, there 
was concern for enterococcal source from GI. Additionally 
patient with risks for MRSA including many recent 
hospitalizations. She was continued on Vancomycin, and ID was 
consulted. However, she was transferred to ICU before speciation 
was determined. When transferred back to the floor, ID was 
consulted and felt that this organism was a contaminant. 

#Severe Ascites
#HCV/EtOH Cirrhosis: 
Child's Class B on admission. Previously decompensated by 
ascites (did not tolerate diuretics), esophageal varices, and 
HE. Diagnostic para in ED positive for SBP, though she had had 
multiple recent paras that were negative for SBP. 

# PERITONITIS - SPONTANEOUS vs. SECONDARY:  
Concomitant GPC bacteremia and significant abdominal pain raised 
some concern for secondary peritonitis. However, ___ 
criteria suggested otherwise (ascitic protein<1.0, glucose>50; 
LDH not checked). Studies concerning for SBP however. Given 
above discussion of other potential sources, she was started on 
Cefepime. 

# ACUTE ON CHRONIC ANEMIA:  
# ACUTE ON CHRONIC THROMBOCYTOPENIA:  
# COAGULOPATHY:  
No visible bleeding and patient's hemoglobin baseline is likely 
close to 7.7. Presented with 9.9 iso poor PO intake which likely 
represented some degree of DDx includes marrow suppression and 
worsening liver function in setting of sepsis.
Anemia was concerning for possible bleeding; though no clear 
evidence on exam but has known esophageal and rectal varices. 

CHRONIC ISSUES:
===============
# Adrenal Insufficiency: 
Diagnosed during recent hospitalization. She was previously on 
Hydrocortisone 10 and 5mg BID. On admission however, given acute 
hypotension and underlying sepsis she was started on stress dose 
steroids.

# Chronic Abdominal Pain: 
She was started with home PO Morphine Liquid ___ mg Q2-4H PRN 
spaced to Q6 given respiratory depression and hypotension as 
well as home tizanidine was held

# Diabetes Mellitus: 
BG 100-200s. She was continued on glargine, NPH, and SSI. 

# COPD: Albuterol nebs PRN, Duonebs

# GERD: IV PPI BID

# Depression: Home SSRI

# Polysubstance use disorder: 
-Continue MVI, folate, thiamine 

# Vitamin D deficiency: 
Continue repletion during last admission on ___.

Transitional Issues
=====================
Patient is deceased, none to report

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln ___ NEB IH Q4H:PRN shortness of 
breath, wheezing 
2. Aspirin 81 mg PO DAILY 
3. Escitalopram Oxalate 20 mg PO DAILY 
4. Fluticasone Propionate NASAL 1 SPRY NU BID 
5. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
6. FoLIC Acid 1 mg PO DAILY 
7. Hydrocortisone 10 mg PO DAILY 
8. Hydrocortisone 5 mg PO AFTERNOON 
9. Lactulose 30 mL PO QID 
10. Lidocaine 5% Patch 2 PTCH TD QAM 
11. Morphine Sulfate (Oral Solution) 2 mg/mL 10 mg PO Q2-4H:PRN 
Pain - Moderate 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
14. Pantoprazole 40 mg PO Q12H pill esophagitis 
15. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
16. Pregabalin 150 mg PO BID 
17. Rifaximin 550 mg PO BID 
18. Sucralfate 1 gm PO QID 
19. Thiamine 100 mg PO DAILY 
20. Tiotropium Bromide 1 CAP IH DAILY 
21. Tizanidine 2 mg PO DAILY:PRN muscle spasm 
22. Zinc Sulfate 220 mg PO DAILY 
23. Albuterol Inhaler 2 PUFF IH Q4H-Q6H PRN shortness of breath, 
wheezing 
24. HumaLOG KwikPen Insulin (insulin lispro) 200 unit/mL (3 mL) 
subcutaneous ASDIR 
25. HumuLIN N NPH Insulin KwikPen (insulin NPH isoph U-100 
human) 100 unit/mL (3 mL) SC QHS 
26. insulin glargine 100 unit/mL (3 mL) subcutaneous BREAKFAST 

 
Discharge Medications:
None, patient deceased 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
==================
GBS bacteremia
GBS peritonitis
Enterococcal UTI 
decompensated HCV/ETOH cirrhosis
SECONDARY DIAGNOSIS: 
====================
acute respiratory failure ___ pulmonary flash edema 
adrenal insufficiency 

 
Discharge Condition:
Patient expired

 
Discharge Instructions:
N/A, patient expired
 
Followup Instructions:
___